US04839351
5-Mercaptoimidazol[1,2-a]pyridine
A mixture of 2.5 g of 5-chloroimidazo[1,2-a]pyridine and 30 ml of 2N-potassium hydrogen sulfide solution is stirred at room temperature for 6 hours and then at 80° C. for 3 days. The pH of the reaction mixture is adjusted to 2 with concentrated hydrochloric acid. The reaction mixture is extracted twice with 200 ml of ethyl acetate, and dried over magnesium sulfate, followed by evaporation of the solvent under reduced pressure, and the resulting powder is collected by filtration. Yield:33%.

reactant | 5-chloroimidazo[1,2-a]pyridine | 2.5 g | ClC1=CC=CC=2N1C=CN2 | C7H5ClN2
reactant | potassium hydrogen sulfide | S.[K]
reactant | hydrochloric acid | Cl | ClH
product | 5-Mercaptoimidazol[1,2-a]pyridine | Yield:33% | SC1=CC=CC=2N1C=CN2 | C7H6N2S
